US08609696B2
To a stirred solution of azetidine-3-carboxylic acid hydrochloride (1.0 g, 7.27 mmol) in DCM (25 mL) is added 5N aqueous NaOH (10 mL) and water (10 mL). p-Iodobenzenesulfonyl chloride (2.41 g, 7.98 mmol) is added portionwise. After 18 h the reaction mixture is diluted with DCM/water. The basic aqueous layer is acidified with 5N aqueous HCl. The resultant precipitate is filtered, washed with water and MeCN. Drying in air gives 1.17 g (44%) of 1-[(4-iodophenyl)sulfonyl]azetidine-3-carboxylic acid. m/z=368 [M++H].

reactant | azetidine-3-carboxylic acid hydrochloride | 7.27 mmol, 1.0 g | Cl.N1CC(C1)C(=O)O
reactant | NaOH | 5N, 10 mL | [OH-].[Na+]
reactant | p-Iodobenzenesulfonyl chloride | 7.98 mmol, 2.41 g | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | HCl | 5N | Cl | ClH
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM water | C(Cl)Cl.O
solvent | water | 10 mL | O | H2O
product | 1-[(4-iodophenyl)sulfonyl]azetidine-3-carboxylic acid | 1.17 g, 44% | IC1=CC=C(C=C1)S(=O)(=O)N1CC(C1)C(=O)O | C10H10INO4S
